US05489614
a) 3',4'-Dimethoxy-2-bromoisobutyrophenone
A mixture of veratrole (1,3-dimethoxybenzene) (13.8 g), 2-bromoisobutyryl bromide (23.0 g) and aluminium chloride (14.0 g) was heated for 1 hour at 70°-80° C. After cooling, ice and hydrochloric acid were added to the reaction mixture which was then extracted with ether. The extract was washed first with water and then with 1N NaOH-solution, dried and the solvent evaporated in vacuo, yielding a pale yellow oil (12.3 g).

reactant | veratrole | 13.8 g | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | 2-bromoisobutyryl bromide | 23.0 g | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | aluminium chloride | 14.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
product | 3',4'-Dimethoxy-2-bromoisobutyrophenone | 12.3 g | COC=1C=C(C=CC1OC)C(C(C)(C)Br)=O | C12H15BrO3
